US07868036B2
AA tert-Butyl 4-(1-carboxy-1-methylethyl)piperidine-1-carboxylate
0.052 g of methyl 2-methyl-2-piperidin-4-ylpropionate hydrochloride is taken up in 2 ml of dioxane and the mixture is admixed with 2 ml of 3M NaOH. The reaction mixture is stirred at room temperature for 30 minutes and 0.079 g of di-tert-butyl dicarbonate are added. The reaction mixture is subsequently stirred at room temperature for 16 hours, adjusted to pH=6 with 2M HCl and extracted with ethyl acetate (2×). The combined organic phases are washed with brine, dried over sodium sulphate and concentrated. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.45 (1:2 EtOAc-heptane).

reactant | methyl 2-methyl-2-piperidin-4-ylpropionate hydrochloride | 0.052 g | Cl.CC(C(=O)OC)(C)C1CCNCC1
reactant | NaOH | 3M, 2 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.079 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 2M | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-(1-carboxy-1-methylethyl)piperidine-1-carboxylate | C(=O)(O)C(C)(C)C1CCN(CC1)C(=O)OC(C)(C)C | C14H25NO4
